US05952504
(A) Ethyl 2-ethoxycarbonyl-3-(2-methoxypyridine-3-yl)aminoacrylate
3-amino-2-methoxypyridine (12.0 g) was reacted with diethyl ethoxymethylene malonate (23.0 g) at a temperature of 120° C. to 130° C. for 30 minutes while distilling ethanol produced during the reaction. After completion of the reaction, the reaction mixture was cooled to 60° C., and poured into petroleum ether (200 ml) and cooled to 0° C. The resulting precipitates were filtered to give 23.5 g (82%) of the titled compound.

reactant | 3-amino-2-methoxypyridine | 12.0 g | NC=1C(=NC=CC1)OC | C6H8N2O
reactant | diethyl ethoxymethylene malonate | 23.0 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Ethyl 2-ethoxycarbonyl-3-(2-methoxypyridine-3-yl)aminoacrylate | 23.5 g, 82% | C(C)OC(=O)C(C(=O)OCC)=CNC=1C(=NC=CC1)OC | C14H18N2O5
